US03932452
1-(4-Bromobenzyl)-2-imidazolidinone
A 12.4 g (0.14 mole) portion of 2-imidazolidinone in 125 ml of dimethylsulfoxide treated with 19.9 g (0.14 mole) of K2CO3, 11.5 g (0.069 mole) of KI and 36.0 g (0.14 mole) of 4-bromobenzylbromide. The reaction mixture was heated to 105° over 0.3 hours, held at 105° with stirring for 1.8 hours, and poured into 1.51 of cold water. The aqueous mixture was extracted with 1.3 l of chloroform. The chloroform extract was washed with 500 ml of water, dried over MgSO4 overnight and filtered. The filtrate was concentrated under reduced pressure to give 36 g (100%) of a light yellow semisolid. The crude product was crystallized using 150 ml of ether, filtered, air dried and dried at 60° for 4 hours to give 15 (42%) of a white solid m.p. 163°-167°. Recrystallization from acetonitrile gave an analytical sample, m.p. 166°-168°.

reactant | 2-imidazolidinone | N1C(NCC1)=O | C3H6N2O
reactant | K2CO3 | 0.14 mole, 19.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-bromobenzylbromide | 0.14 mole, 36.0 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | water | O | H2O
solvent | dimethylsulfoxide | 125 ml | CS(=O)C | C2H6OS
product | 1-(4-Bromobenzyl)-2-imidazolidinone | 36 g, 100% | BrC1=CC=C(CN2C(NCC2)=O)C=C1 | C10H11BrN2O
